US05506219
A. 1-(1-Adamantyl)-3-(4-fluorophenyl)-2-propen-1-one
A mixture of 4-fluorobenzaldehyde (6.01 ml, 56.10 mmol, Aldrich) and 1-adamantyl methyl ketone (10.00 g, 56.10 mmol) in absolute ethanol (100 ml) was treated with a solution of sodium ethoxide in ethanol (21% by weight solution; 2.08 ml, 5.61 mmol). A precipitate soon fell out of solution. After stirring at room temperature for 48 hours, the mixture was cooled to -10° C. and the precipitate was collected by filtration. The solid was washed with cold ethanol, dried in vacuo and recrystallized from hexane. The title compound was obtained as an off-white solid (9.20 g, 57.8%).

reactant | 4-fluorobenzaldehyde | 56.10 mmol, 6.01 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 1-adamantyl methyl ketone | 56.10 mmol, 10.00 g | CC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 5.61 mmol, 2.08 ml | C(C)O | C2H6O
product | 1-(1-Adamantyl)-3-(4-fluorophenyl)-2-propen-1-one | C12(CC3CC(CC(C1)C3)C2)C(C=CC2=CC=C(C=C2)F)=O | C19H21FO
